US09376443B2
6-Difluoromethoxymethylpyridine-2-methanol
NaBH4 (377 mg, 9.96 mmol) was added to a solution of ethyl 6-difluoromethoxymethylpyridine-2-carboxylate (2.30 g, 9.96 mmol) in EtOH (50 mL) at 0° C., the mixture was warmed to 80° C. and stirred for 5 h. The mixture was cooled to 0° C., quenched with sat. aq. NH4Cl, concentrated in vacuo and partitioned between EtOAc and brine. The organic layer was separated, dried (MgSO4), filtered and evaporated to give the title compound (1.50 g, 80%) as a colorless oil; NMR δH (400 MHz, CDCl3) 7.73 (1H, t, J 8.0 Hz), 7.35 (1H, d, J 8.0 Hz), 7.19 (1H, d, J 8.0 Hz), 6.39 (1H, t, J 74.0 Hz), 5.02 (2H, s), 4.76 (2H, s); (M+H)+ 190.

reactant | NaBH4 | 9.96 mmol, 377 mg | [BH4-].[Na+]
reactant | ethyl 6-difluoromethoxymethylpyridine-2-carboxylate | 9.96 mmol, 2.30 g | FC(OCC1=CC=CC(=N1)C(=O)OCC)F | C10H11F2NO3
solvent | EtOH | 50 mL | CCO | C2H6O
product | 6-Difluoromethoxymethylpyridine-2-methanol | 1.50 g, 80% | FC(OCC1=CC=CC(=N1)CO)F | C8H9F2NO2
